US06399604B1
Di-tert-butyl dicarbonate (1.77 g, 8.1 mmol) was added to a stirring mixture of 4-(methylaminomethyl)benzonitrile (1.13 g, 7.7 mmol) and 1N NaOH (15 mL) in 1,4-dioxane (15 mL) at ambient temperature. The reaction mixture was stirred for 2 h, poured into saturated aqueous sodium chloride, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give 1.81 g of crude 4-{N-(tert-butoxycarbonyl)-methylaminomethyl]benzonitrile. The crude material was filtered through a 1″ silica gel pad, first eluting with hexane, then with ether. The ether filtrate was concentrated to give pure 4-{N-(tert-butoxycarbonyl)-methylaminomethyl]benzonitrile as a colorless oil. To this was added 10% Pd/C (170 mg) and ethanol in a Paar bottle. The mixture was shaken under hydrogen (50 PSI) for 4.5 h, then a filtered through Celite and concentrated in vacuo. The residue was taken up in ethanol, cooled in an ice bath, and 1.0 M HCl in ether (10 mL) was added dropwise. The resulting precipitate was filtered and dried in a vacuum oven to give 1.346 g of 4-[(N-tert-butoxycarbonyl)-methylaminomethyl)benzylamine hydrochloride as a pale gray solid.

reactant | Di-tert-butyl dicarbonate | 8.1 mmol, 1.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(methylaminomethyl)benzonitrile | 7.7 mmol, 1.13 g | CNCC1=CC=C(C#N)C=C1 | C9H10N2
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-{N-(tert-butoxycarbonyl)-methylaminomethyl]benzonitrile | 1.81 g | C(C)(C)(C)OC(=O)N(C)CC1=CC=C(C#N)C=C1 | C14H18N2O2
